US08202881B2
In a 200 mL round bottom flask, 4,6-dichloro-1-methyl-1H-imidazo[4,5-c]pyridine (15 g, 74.2 mmol) (prepared as per WO2006122137 example A1.5) was dissolved in 2,4-dimethoxybenzylamine (25 mL, 166 mmol). The reaction mixture was heated to 110° C. for 3 h and cooled to room temperature. Water was added and a tan colored solid precipitated out. Vacuum filtration yielded a tan solid. The solid was washed with ethyl acetate and hexane to yield 6-chloro-N-(2,4-dimethoxybenzyl)-1-methyl-1H-imidazo[4,5-c]pyridin-4-amine (23.459 g, 95% yield) as a cream colored solid.

reactant | 4,6-dichloro-1-methyl-1H-imidazo[4,5-c]pyridine | 74.2 mmol, 15 g | ClC1=NC(=CC2=C1N=CN2C)Cl | C7H5Cl2N3
reactant | 2,4-dimethoxybenzylamine | 166 mmol, 25 mL | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
solvent | Water | O | H2O
product | 6-chloro-N-(2,4-dimethoxybenzyl)-1-methyl-1H-imidazo[4,5-c]pyridin-4-amine | 23.459 g, 95% yield | ClC1=CC2=C(C(=N1)NCC1=C(C=C(C=C1)OC)OC)N=CN2C | C16H17ClN4O2
